US20010053851A1
A solution of 3-cyclopentyl-2-(4-ethynyl-phenyl)-propionic acid (121 mg, 0.50 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (332 mg, 0.75 mmol), triethylamine (0.21 mL, 1.50 mmol) and 2-aminothiazole (86 mg, 0.75 mmol) in methylene chloride (5 mL) was stirred at 25° C. for 24 h. At this time, the reaction was diluted with methylene chloride (10 mL). This solution was washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), a 1N aqueous hydrochloric acid solution (1×10 mL), and a saturated aqueous sodium chloride solution (1×10 mL). The aqueous layers were back extracted with methylene chloride (1×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-ethynyl-phenyl)-N-thiazol-2-yl-propionamide (92 mg, 56.8%) as a white solid: mp 181-183° C.; EI-HRMS m/e calcd for C19H20N2OS (M+) 324.1296, found 324.1295.

reactant | 3-cyclopentyl-2-(4-ethynyl-phenyl)-propionic acid | 0.50 mmol, 121 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#C | C16H18O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.75 mmol, 332 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.50 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.75 mmol, 86 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-ethynyl-phenyl)-N-thiazol-2-yl-propionamide | 92 mg, 56.8% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C#C | C19H20N2OS
